US09085583B2
Step 1: (±)-tert-butyl-1-(3-(2-methoxyethoxy)butan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate
Sodium hydride (0.026 g, 0.657 mmol) and (±)-tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (0.1 g, 0.329 mmol) were added to a 25 mL rbf and the atmosphere was purged with N2. DMF (5 mL) was added and the reaction was heated at 40° C. for 1 h. The reaction was cooled to ambient temperature and 1-bromo-2-methoxyethane (0.062 ml, 0.657 mmol) was added. The reaction was heated at 90° C. for 3 d. LCMS showed ˜60% conversion. The reaction was poured into half-saturated brine, extracted with EtOAc, the org layer was washed with half-saturated brine, brine, filtered, concentrated and loaded onto a column with aid of DCM. 2×12 g column, the column was then treated with 2 CV of Hex then 20% EtAOc in Hex to elute (±)-tert-butyl 1-(3-(2-methoxyethoxy)butan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (44.4 mg, 37.3%). LRMS (M+H+) m/z: calcd 363.46. found 363.1.

reactant | Sodium hydride | 0.657 mmol, 0.026 g | [H-].[Na+]
reactant | (±)-tert-butyl 1-(3-hydroxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.329 mmol, 0.1 g | OC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)C | C17H24N2O3
reactant | 1-bromo-2-methoxyethane | 0.657 mmol, 0.062 ml | BrCCOC | C3H7BrO
solvent | brine | [Cl-].[Na+].O
product | (±)-tert-butyl-1-(3-(2-methoxyethoxy)butan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | C(C)(C)(C)OC(=O)C1=C(N(C2=NC=CC=C21)C(C)C(C)OCCOC)C | C20H30N2O4
